US08871361B2
Synthesis of 2,2′-(oxybis(3,1-phenylene))bis(1-phenyl-1H-imidazole)
To a 500 mL 3-neck round bottom flask was added 3-(1-phenyl-1H-imidazol-2-yl)phenol (3.05 g, 12.26 mmol), 2-(3-iodophenyl)-1-phenyl-1H-imidazole (4.67 g, 13.49 mmol), picolinic acid (2.27 g, 18.40 mmol), copper(I) iodide (0.70 g, 3.68 mmol), potassium phosphate tribasic monohydrate (9.88 g, 42.9 mmol), and 200 mL DMSO. Nitrogen was bubbled directly into the mixture and was heated to 200° C. for 3 h and then at 120° C. overnight under nitrogen. The cooled reaction mixture was diluted with ethyl acetate and water. The mixture was filtered through Celite® and the Celite® was washed with ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organic layers were washed with brine, dried over magnesium sulfate, filtered, and evaporated. The residue was purified by column chromatography eluting with ethyl acetate to give pure product (2.4 g, 43%).

reactant | 3-(1-phenyl-1H-imidazol-2-yl)phenol | 12.26 mmol, 3.05 g | C1(=CC=CC=C1)N1C(=NC=C1)C=1C=C(C=CC1)O | C15H12N2O
reactant | 2-(3-iodophenyl)-1-phenyl-1H-imidazole | 13.49 mmol, 4.67 g | IC=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1 | C15H11IN2
reactant | picolinic acid | 18.40 mmol, 2.27 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | potassium phosphate tribasic monohydrate | 42.9 mmol, 9.88 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | copper(I) iodide | 3.68 mmol, 0.70 g | [Cu]I
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | 2,2′-(oxybis(3,1-phenylene))bis(1-phenyl-1H-imidazole) | 2.4 g, 43% | O(C=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1)C=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1 | C30H22N4O
